US09023840B2
Step 4: 4-{3-(cyanomethyl)-3-[4-(1H-pyrrolo[2,3-b]pyridin-4-yl)-1H-pyrazol-1-yl]azetidin-1-yl}-3-fluorobenzoic acid
Lithium hydroxide monohydrate (83 mg, 2.0 mmol) was added to a mixture of methyl 4-{3-(cyanomethyl)-3-[4-(1H-pyrrolo[2,3-b]pyridin-4-yl)-1H-pyrazol-1-yl]azetidin-1-yl}-3-fluorobenzoate (0.34 g, 0.79 mmol) in methanol (2.0 mL), water (1.0 mL) and THF (2.0 mL). The reaction mixture was stirred at 35° C. overnight, and adjusted to pH=5 with 1.0 N HCl aqueous solution, and concentrated under reduced pressure to remove methanol and THF. The precipitate formed was filtered, washed with water and ether, and dried in vacuum to afford the desired product (0.17 g, 52%) which was directly used in the next step reaction without further purification. LCMS (M+H)+: m/z=417.1.

reactant | Lithium hydroxide monohydrate | 2.0 mmol, 83 mg | O.[OH-].[Li+]
reactant | methyl 4-{3-(cyanomethyl)-3-[4-(1H-pyrrolo[2,3-b]pyridin-4-yl)-1H-pyrazol-1-yl]azetidin-1-yl}-3-fluorobenzoate | 0.79 mmol, 0.34 g | C(#N)CC1(CN(C1)C1=C(C=C(C(=O)OC)C=C1)F)N1N=CC(=C1)C1=C2C(=NC=C1)NC=C2 | C23H19FN6O2
reactant | HCl | 1.0 N | Cl | ClH
solvent | methanol | 2.0 mL | CO | CH4O
solvent | water | 1.0 mL | O | H2O
solvent | THF | 2.0 mL | C1CCOC1 | C4H8O
product | 4-{3-(cyanomethyl)-3-[4-(1H-pyrrolo[2,3-b]pyridin-4-yl)-1H-pyrazol-1-yl]azetidin-1-yl}-3-fluorobenzoic acid | 0.17 g, 52% | C(#N)CC1(CN(C1)C1=C(C=C(C(=O)O)C=C1)F)N1N=CC(=C1)C1=C2C(=NC=C1)NC=C2 | C22H17FN6O2
